US03993650
K. 4-Benzoyl-1-ethyl-3-ethylamino-5-methyl-2-phenyl-pyrrole
Compound B) is transformed into the corresponding p-toluene sulfonamido derivative (M.p. 230°-33° C) by reaction with p-toluenesulfonychloride. This compound is subsequently reacted in strong alkaline solution with diethylsulfate, thus obtaining 4-benzoyl-3-(N-ethyl-p-toluenesulfonamido)-5-methyl-2-phenyl-pyrrole (M.p. 152°-53° C), which is in turn converted into the title compound (B.p. 220° C/0.015 mmHg) by acid hydrolysis.

reactant | diethylsulfate | C(C)OS(=O)(=O)OCC | C4H10O4S
reactant | 4-benzoyl-3-(N-ethyl-p-toluenesulfonamido)-5-methyl-2-phenyl-pyrrole | C(C1=CC=CC=C1)(=O)C=1C(=C(NC1C)C1=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)C)CC | C27H26N2O3S
product | 4-Benzoyl-1-ethyl-3-ethylamino-5-methyl-2-phenyl-pyrrole | C(C1=CC=CC=C1)(=O)C=1C(=C(N(C1C)CC)C1=CC=CC=C1)NCC | C22H24N2O
